US04268510
3,4-Dihydro-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazin-4-one (prepared as described in Example 3--4.0 g.) was stirred with acetic anhydride (40 ml.) on a steam-bath for 10 hours. The reaction mixture was cooled to room temperature, poured into water (400 ml.) and stirred for 3 hours, and the oil which separated was extracted into diethyl ether. The extract was dried and the solvent was evaporated to leave an oil, which was purified by column chromatography on "Kieselgel 60" (trade mark) silica, and the column was eluted with 10% v/v ethyl acetate in toluene. 25 Ml. fractions were collected, fractions 1-7 were combined, and the solvent was evaporated to give 3-acetyl-3,4-dihydro-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazin-4-one as an oil. The n.m.r. spectrum in hexadeuterio-dimethylsulphoxide showed the following characteristic peaks (δ values):

reactant | 3,4-Dihydro-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazin-4-one | 3--4.0 g | ClC(C1OC2=C(C(N1)=O)C=CC=C2)(Cl)Cl | C9H6Cl3NO2
reactant | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 400 ml | O | H2O
product | 3-acetyl-3,4-dihydro-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazin-4-one | C(C)(=O)N1C(OC2=C(C1=O)C=CC=C2)C(Cl)(Cl)Cl | C11H8Cl3NO3
